US04006137
B. 2-[2-(4-methoxyphenyl)ethenyl]-1,3-dimethyl-1H-imidazolium iodide
A mixture of 10 g of 1,2,3-trimethyl-1H-imidazolium iodide, 2.0 g of potassium hydroxide and 10 ml of 4-methoxybenzaldehyde is refluxed in 50 ml of absolute ethanol for 15 minutes during which time a precipitate is formed. The reaction mixture is cooled and the solid is filtered off. Crystallization from absolute ethanol yields 9.1 g of the title compound, melting point 289°-291° C.

reactant | 1,2,3-trimethyl-1H-imidazolium iodide | 10 g | [I-].C[NH+]1C(N(C=C1)C)C
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | 4-methoxybenzaldehyde | 10 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(4-methoxyphenyl)ethenyl]-1,3-dimethyl-1H-imidazolium iodide | 9.1 g | [I-].COC1=CC=C(C=C1)C=CC1[NH+](C=CN1C)C | InChI=1S/C14H18N2O.HI/c1-15-10-11-16(2)14(15)9-6-12-4-7-13(17-3)8-5-12;/h4-11,14H,1-3H3;1H
